US07709500B2
N-{4-[4-(3,4-Dichlorophenoxy)piperidin-1-yl]-3-hydroxybutyl}-2-oxo-2,3-dihydro-1,3-benzothiazole-6-carboxamide
Prepared as described in Example 1 from 4-amino-1-[4-(3,4-dichlorophenoxy)piperidin-1-yl]butan-2-ol (0.26 g) and 2-oxo-2,3-dihydro-1,3-benzothiazole-6-carboxylic acid (0.152 g). Title compound obtained as a white solid (0.105 g).

reactant | 4-amino-1-[4-(3,4-dichlorophenoxy)piperidin-1-yl]butan-2-ol | 0.26 g | NCCC(CN1CCC(CC1)OC1=CC(=C(C=C1)Cl)Cl)O | C15H22Cl2N2O2
reactant | 2-oxo-2,3-dihydro-1,3-benzothiazole-6-carboxylic acid | 0.152 g | O=C1SC2=C(N1)C=CC(=C2)C(=O)O | C8H5NO3S
product | N-{4-[4-(3,4-Dichlorophenoxy)piperidin-1-yl]-3-hydroxybutyl}-2-oxo-2,3-dihydro-1,3-benzothiazole-6-carboxamide | ClC=1C=C(OC2CCN(CC2)CC(CCNC(=O)C2=CC3=C(NC(S3)=O)C=C2)O)C=CC1Cl | C23H25Cl2N3O4S
